US05504107
Methyl (2R)-Tetrahydro-5-methoxy-2-furoate was prepared as for the S-isomer from (R)-5-(3-methoxyallyl)-2,2-dimethyl-1,3-dioxolane-4-one in similar yield: α!D25 -28.33° (c=0.1, CH3OH); IR (neat, cm-1) 2956, 1754, 1209, 1105; 1H NMR (CDCl3) diastereomer A (66%) δ 5.21 (m, 1H), 4.64-4.52 (m, 1H), 3.77 (s, 3H), 3.38 (s, 3H), 2.42-1.84 (m, 4H) for diastereomer B (33%) 5.08 (m, 1H), 4.64-4.52 (m, 1H), 3.77 (s, 3H), 3.42 (s, 3H), 2.42-1.84 (m, H); HRMS calculated for C7H12O4 (M+) 160.0735, found 160.0750.

reactant | (R)-5-(3-methoxyallyl)-2,2-dimethyl-1,3-dioxolane-4-one | COC=CC[C@@H]1C(OC(O1)(C)C)=O | C9H14O4
solvent | CH3OH | CO | CH4O
product | Methyl (2R)-Tetrahydro-5-methoxy-2-furoate | COC1CC[C@@H](O1)C(=O)OC | C7H12O4
